US04188390
A suspension of piperazine (11.88 g.) and sodium acetate (20.30 g.) in a mixture of water (70 ml.) and acetone (95 ml.) was stirred at 10°-15° C., then concentrated hydrochloric acid was added (about 35 ml.) until the pH of the solution reached 1.5. 1,4-Benzodioxan-2-carbonyl chloride (31.0 g.) and sodium hydroxide (5N, about 45 ml.) were then added portionwise while maintaining the temperature at 10°-15° C., the sodium hydroxide maintaining the pH at 1.7-2.2. After the addition was complete, the pH was adjusted to 2.0 by the addition of sodium hydroxide, the suspension was stirred for a further 30 minutes. Water was then added until a homogenous solution resulted, the acetone removed in vacuo, and the aqueous phase was basified to pH 8-9 with sodium hydroxide (5N), re-extracted with chloroform (3×200 ml.) and the extracts washed with water, dried (MgSO4) and evaporated in vacuo. The oily residue was dissolved in ethyl acetate, treated with ethereal hydrogen chloride, evaporated in vacuo and the solid residue triturated with ether, followed by recrystallization from methanol to give N-(1,4-benzodioxan-2-carbonyl)-piperazine hydrochloride (4.85 g.), m.p. 265°-267° C.

reactant | piperazine | 11.88 g | N1CCNCC1 | C4H10N2
reactant | sodium acetate | 20.30 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | 1,4-Benzodioxan-2-carbonyl chloride | 31.0 g | O1C(COC2=C1C=CC=C2)C(=O)Cl | C9H7ClO3
reactant | sodium hydroxide | 5N, about 45 ml | [OH-].[Na+]
solvent | water | 70 ml | O | H2O
solvent | acetone | 95 ml | CC(=O)C | C3H6O
product | N-(1,4-benzodioxan-2-carbonyl)-piperazine hydrochloride | 4.85 g | Cl.O1C(COC2=C1C=CC=C2)C(=O)N2CCNCC2 | InChI=1S/C13H16N2O3.ClH/c16-13(15-7-5-14-6-8-15)12-9-17-10-3-1-2-4-11(10)18-12;/h1-4,12,14H,5-9H2;1H
